US05889027
2-(o-Chlorophenyl)-3-oxo-4-(4-methylpyridyl)-5-amino-2,3-dihydrofurane
Sodium (0.35 g, 15.2 mmol) was added in methanol (8 ml) and stirred at room temperature under nitrogen atomsphere till complete dissolution of sodium, and then 2-cyanomethyl-4-methylpyridine (1.10 g, 8.51 mmol) and 2-(o-chlorophenyl)2-hydroxymethylacetic acid (1.78 g, 1.35 mmol) were slowly added. After refluxing for 2 hours with stirring the solution was cooled with a small amount of water and concentrated under the reduced pressure. The residue was extracted with methylene chloride and the combined organic layers were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to get crude product. The residue was separated and purified by column-chromatography over silica gel to obtain the desired product (0.54 g, yield=28%).

reactant | Sodium | 15.2 mmol, 0.35 g | [Na] | Na
reactant | 2-cyanomethyl-4-methylpyridine | 8.51 mmol, 1.10 g | C(#N)CC1=NC=CC(=C1)C | C8H8N2
reactant | 2-(o-chlorophenyl)2-hydroxymethylacetic acid | 1.35 mmol, 1.78 g | ClC1=C(C=CC=C1)C(C(=O)O)CO | C9H9ClO3
reactant | water | O | H2O
solvent | methanol | 8 ml | CO | CH4O
product | 2-(o-Chlorophenyl)-3-oxo-4-(4-methylpyridyl)-5-amino-2,3-dihydrofurane | 0.54 g, yield=28% | ClC1=C(C=CC=C1)C1OC(=C(C1=O)C1=NC=CC(=C1)C)N | C16H13ClN2O2
